US05242912
4,5,6,7-Tetrahydroazepino[3,2,1-hi]indole-1,2-dione
To a solution of oxalic chloride (27.5 ml) in tetrahydrofuran (THF; 500 ml) which was subjected to refluxing with heating, was dropwise added a solution of 2,3,4,5-tetrahydro-1H-1-benzazepine (28.8 g) in THF (100 ml), which was thereafter subjected to stirring for 4 hours as such. After cooled, the solvent was distilled off and the residue was dissolved into carbon disulfide (600 ml), to which then only small portions of aluminium chloride (52.27 g) were added at room temperature with stirring and was further subjected to stirring for 4 hours. With removal of supernatant solution from the reaction mixture, ice-water was added to the residue, which was then extracted with chloroform. The organic layer was thoroughly washed with water, dried over anhydrous sodium sulfate and then the solvent thereof was distilled off.

reactant | oxalic chloride | 27.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3,4,5-tetrahydro-1H-1-benzazepine | 28.8 g | N1CCCCC2=C1C=CC=C2 | C10H13N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | 4,5,6,7-Tetrahydroazepino[3,2,1-hi]indole-1,2-dione | C1(C(CCC2CCCC=3C=CN1C23)=O)=O | C12H13NO2
